US04767768
To a solution of 4-ethyl-2-hydroxy-5-nitrohexanamide (0.36 g) in acetic acid (5 ml) was added chromium trioxide (0.23 g). The resulting mixture was heated at 100° C. for 40 minutes with stirring. After cooling, the mixture was evaporated to dryness. The resulting residue was diluted with water and then extracted with ethyl acetate. The extract was washed successively with water, an aqueous sodium bicarbonate and brine, and then dried over magnesium sulfate. The solvent was removed by distillation to give an oil. The oil was purified by a preparative thin layer chromatography [solvent: methanol-chloroform (5:95)] to give 4-ethyl-5-nitro-2-oxo-hexanamide (50 mg).

reactant | 4-ethyl-2-hydroxy-5-nitrohexanamide | 0.36 g | C(C)C(CC(C(=O)N)O)C(C)[N+](=O)[O-] | C8H16N2O4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 0.23 g | [O-2].[O-2].[O-2].[Cr+6]
product | 4-ethyl-5-nitro-2-oxo-hexanamide | 50 mg | C(C)C(CC(C(=O)N)=O)C(C)[N+](=O)[O-] | C8H14N2O4
